US04723002
(B) N-[3-(iodoacetyl)-2-oxo-1-imidazolidinyl]carbamic acid, 1,1-dimethylethyl ester
N-[3-(Bromoacetyl)-2-oxo-1-imidazolidinyl]carbamic acid, 1,1-dimethylethyl ester (20.9 g, 65 mmol) was dissolved in acetone (250 ml) containing sodium iodide (10.5 g, 70 mmol). The solution was stirred at reflux for three hours and filtered hot through Celite. The solution was evaporated in vacuo to give the title compound as a light yellow solid, 23.9 g.

reactant | N-[3-(Bromoacetyl)-2-oxo-1-imidazolidinyl]carbamic acid, 1,1-dimethylethyl ester | 65 mmol, 20.9 g | BrCC(=O)N1C(N(CC1)NC(OC(C)(C)C)=O)=O | C10H16BrN3O4
reactant | sodium iodide | 70 mmol, 10.5 g | [I-].[Na+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | N-[3-(iodoacetyl)-2-oxo-1-imidazolidinyl]carbamic acid, 1,1-dimethylethyl ester | ICC(=O)N1C(N(CC1)NC(OC(C)(C)C)=O)=O | C10H16IN3O4
